US07709645B2
Step 1: Synthesis of 1-(2,2,2-trifluoro-acetyl)-pyrrolidine-2-carboxylic acid {2-dimethylcarbamoyl-6-fluoro-4-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-amide
To a scintillation vial was combined 32 mg (0.06 mmol) of 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide and 15 uL (0.09 mmol) of N,N-diisopropylethylamine. To the vial was added 745 μL of a 0.1M solution of (S)-(−)-N-(trifluoroacetyl)prolylchloride in dichloromethane. The reaction was stirred at room temperature for 30 minutes, quenched with a few drops of methanol, and concentrated down. MS: m/z 752.1 (M+H+).

reactant | 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.06 mmol, 32 mg | NC1=C(C(=O)N(C)C)C=C(C=C1F)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C30H27FN4O4S
reactant | N,N-diisopropylethylamine | 0.09 mmol, 15 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-(−)-N-(trifluoroacetyl)prolylchloride | FC(C(=O)N1[C@H](C(=O)Cl)CCC1)(F)F | C7H7ClF3NO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2,2,2-trifluoro-acetyl)-pyrrolidine-2-carboxylic acid {2-dimethylcarbamoyl-6-fluoro-4-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-amide | CN(C(=O)C1=C(C(=CC(=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)F)NC(=O)C2N(CCC2)C(C(F)(F)F)=O)C | C37H33F4N5O6S
